US07465726B2
Benzothiazol-6-yl-[6-(1-methanesulfonyl-1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]amine
To a solution of benzothiazol-6-yl-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]amine trihydrochloride (100 mg, 0.2 mmol) in DMF (5 mL) was added N,N-diisopropylethylamine (0.4 mL, 2.0 mmol) and methanesulfonic anhydride (42 mg, 0.24 mmol). The reaction mixture was left to stir at rt for 1 h. The mixture was concentrated in vacuo and purified via MDP, which afforded the title compound as a tan solid. MS (ES+): m/z: 426.98 (100) [MH+]. HPLC: tr=2.44 min (ZQ2000: polar—5 min). 1H NMR (400 MHz, CDCl3): δ=2.64 (m, 2H), 3.13-3.20 (m, 3H), 3.91 (s, 2H), 6.47 (s, 1H), 6.87 (s, 1H), 7.87 (dd, J=1.6, 8.8 Hz, 1H), 8.02 (d, J=8.8 Hz, 1H), 8.35 (s, 1H), 8.92 (d, J=2.0 Hz, 1H), 9.23 (s, 1H), 9.64 (s, 1H), 12.04 (s, 1H).

reactant | benzothiazol-6-yl-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]amine trihydrochloride | 0.2 mmol, 100 mg | Cl.Cl.Cl.S1C=NC2=C1C=C(C=C2)NC=2C1=C(N=CN2)NC(=C1)C=1CCNCC1
reactant | N,N-diisopropylethylamine | 2.0 mmol, 0.4 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonic anhydride | 0.24 mmol, 42 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Benzothiazol-6-yl-[6-(1-methanesulfonyl-1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]amine | S1C=NC2=C1C=C(C=C2)NC=2C1=C(N=CN2)NC(=C1)C=1CCN(CC1)S(=O)(=O)C | C19H18N6O2S2
